US07728158B2
294 g (2.51 mol) of L-valine was dissolved into 786 g of ion-exchange water, 358 g (2.42 mol) of an aqueous solution of 27% sodium hydroxide and 363 g of acetone. With stirring the solution, 533 g (2.43 mol) of lauroyl chloride and 358 g (2.47 mol) of an aqueous solution of 27% sodium hydroxide were simultaneously added dropwise thereto so that pH=12±0.2 and the temperature is kept at 19 to 20° C. After completion of the addition, the solution was stirred at 20° C. for 60 minutes. Then, it was heated up to 40° C., and 171 g of 75% sulfuric acid was added thereto in order to adjust pH=1.5. The layers of the oily substance and water phase that separated at 60° C. were split, and 1950 g of warm water of 60° C. was added to the oily substance. After the mixture was cooled down to 20° C., the precipitated solid substance was filtered out and washed with water. Then, the substance was vacuum-dried at 50° C. to obtain 710 g of N-lauroyl-L-valine (2.37 mol, yield 98%).

reactant | L-valine | 2.51 mol, 294 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | lauroyl chloride | 2.43 mol, 533 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | sulfuric acid | 171 g | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 363 g | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-lauroyl-L-valine | 2.37 mol, 710 g, yield 98% | C(CCCCCCCCCCC)(=O)N[C@@H](C(C)C)C(=O)O | C17H33NO3
